Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
ciprofloxacin / amitriptyline / Cymbalta / Prozac
 
Attending: ___.
 
Chief Complaint:
dizziness, facial numbness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI:
The patient is a ___ year-old right-handed man with history of 
OSA
on CPAP, diabetes mellitus type 2, HTN, HLD who presents with 1
day history of generalized malaise and a 6 hour history of
dizziness, nausea/vomiting and left facial parasthesias. History
provided by the patient. 

Mr. ___ was in his usual state of health until yesterday
when he began feeling "off" and generally unwell throughout the
day. He has difficulty articulating this feeling but describes 
it
as generalized malaise.  In the evening, he went to the cemetery
with his wife to visit a family member who had passed away (not
recently), and reports that while walking around he felt
lightheaded and tired. While walking around he intermittently 
had
a "glaze" sensation over both eyes, which he attributed to
hypoglycemia as he has had this for a while.  He did not try
closing either eye to see if it helped. He has had this 
sensation
several times before when hypoglycemic, and attributed the 
visual
changes to this. After settling down in the car and having
something to eat, the visual changes resolved, but malaise
persisted. He was able to drive home but remained with ongoing
malaise. He went to sleep at approximately 10pm.  

Mr. ___ woke up this morning at 0300 to urinate. When he
stood up, he felt a sensation of dizziness, described as gait
unsteadiness and "feeling seasick." No room-spinning vertigo. He
felt quite nauseous and vomited in the bathroom. He had to hold
on to the wall for stability while walking to the bathroom. 
After
vomiting in the toilet, he felt a pre-syncopal sensation and
diaphoresis but did not loss consciousness. He had his baseline
numbness/tingling in the hands and toes but no new sensory loss
at this time. He also had associated hearing loss and tinnitus 
in
the left ear, and nasal congestion.  No weakness, no visual
changes.  He sat on the toilet for 30 minutes before feeling
better. He was able to walk back to his bed and able to sleep. 
He
does not remember if he continued feeling dizzy while going to
sleep. 

The patient was able to sleep for about 3 hours, and woke up at
0600 with a sensation of numbness and tingling over the left 
side
of the face, associated with ongoing tinnitus. The
numbness/tingling on the left face was new and unlike anything 
he
has experienced before. He remained with intermittent nausea and
unsteady sensation that waxed and waned, but was present only
with ambulation.  

Currently, patient reports that the left face sensation is
improving but not fully back to baseline. He reports that he has
had all the above symptoms, with the exception of left face
sensory changes, during prior sinus infections. This typically
happens to him around this time of year (last time was
approximately ___ year ago, ___.

Denies any recent trauma, visits to the chiropractor (last ___
years ago) or trip to hair salons. Reports he has been compliant
with CPAP use for his OSA. Denies any recent illness apart from
last 24 hours. Denies any medication changes or new medications. 


On neuro ROS, the pt reports baseline left leg sciatica and
parasthesias of the fingers and toes. Denies headache, loss of
vision, blurred vision, diplopia, dysarthria, dysphagia,
lightheadedness, vertigo, tinnitus or hearing difficulty. Denies
difficulties producing or comprehending speech.  Denies focal
weakness, numbness, parasthesiae. No bowel or bladder
incontinence or retention. 

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
Type 2 diabetes mellitus with likely neuropathy (baseline
parasthesias of the fingers and toes bilaterally)
-HTN 
-Baseline L leg sciatica with radiculopathy
 
Social History:
___
Family History:
Maternal uncle with stroke. Mother with HTN. 
 
Physical Exam:
Physical Exam:
Vitals: T 98.4F, HR 85, BP 143/103, RR 16, O2 100% RA

General: Awake, morbidly obese, cooperative, NAD.
HEENT: NC/AT, large neck girth, no scleral icterus noted, MMM, 
no
lesions noted in oropharynx
Neck: Supple, no nuchal rigidity
Pulmonary: breathing non labored on room air 
Cardiac: warm and well perfused; regular on telemetry
Abdomen: soft, NT/ND, no masses or organomegaly noted.
Extremities: No cyanosis, clubbing or edema bilaterally
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Awake, alert, oriented to self, place, time and
situation. Able to relate history without difficulty. Attentive,
able to name ___ backward without difficulty. Language is fluent
with intact repetition and comprehension. Normal prosody. There
were no paraphasic errors. Pt was able to name both high and low
frequency objects.  Able to read without difficulty. Speech was
not dysarthric. Able to follow both midline and appendicular
commands. Pt was able to register 3 objects and recall ___ at 5
minutes. The pt had good knowledge of current events. There was
no evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. Normal saccades. No skew.
Negative head impulse test (no correction saccade).  
V: Facial sensation diminished to pinprick (70% of normal) in
left V1-V3 distributions. Intact to light touch and
proprioception (via stroking on the skin) bilaterally.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally and via the
whispered voice test 
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.No adventitious movements, such as tremor, noted. No
asterixis noted.
  Delt Bic Tri WrE FFl  FE  IO  IP   Quad  Ham TA   ___
L  5    ___   5    ___     5    5   5      5     5
R  5    ___   5    ___     5    5   5      5     5

-Sensory: Decreased sensation to pinprick in left V1-V3
distributions and left C3 distribution (but only anteriorly, not
on the posterior head), otherwise intact throughout neck, chest,
arms and back. No sensory level on the spine. No deficits to
light touch, pinprick, cold sensation, proprioception throughout
in bilateral hands and feet. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  1  1    1    1    0
R  1  1    1    1    0
Plantar response was mute bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally. No overshoot on
cerebellar mirroring test. 

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent. ___ test negative. 

DISCHARGE PHYSICAL EXAM
Vitals: T 98.1 BP 98-117/55-71 HR ___ SpO2 93-96%

General: Awake, morbidly obese, cooperative, NAD.
HEENT: NC/AT, large neck girth, no scleral icterus noted, MMM, 
no
lesions noted in oropharynx
Neck: Supple, no nuchal rigidity
Pulmonary: breathing non labored on room air 
Cardiac: warm and well perfused; regular on telemetry
Abdomen: soft, NT/ND, no masses or organomegaly noted.
Extremities: No cyanosis, clubbing or edema bilaterally
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Awake, alert, oriented to self, place, time and
situation. Able to relate history without difficulty. Attentive,
able to name ___ backward without difficulty. Language is fluent
with intact repetition and comprehension. Normal prosody. There
were no paraphasic errors. Pt was able to name both high and low
frequency objects.  Able to read without difficulty. Speech was
not dysarthric. Able to follow both midline and appendicular
commands.  There was no evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. Normal saccades. No skew.
V: Facial sensation intact to light touch
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.No adventitious movements, such as tremor, noted. No
asterixis noted.
  Delt Bic Tri WrE FFl  FE  IO  IP   Quad  Ham TA   ___
L  5    ___   5    ___     5    5   5      5     5
R  5    ___   5    ___     5    5   5      5     5

-Sensory: No deficits to light touch, pinprick, cold sensation  
throughout in bilateral hands and feet. No extinction to DSS. 
Decreased proprioception in small toes b/l.

-DTRs:
  Bi Tri ___ Pat Ach
L  1  1    1    1    0
R  1  1    1    1    0
Plantar response was mute bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally. 

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
positive. ___ test sways to left. 
 
Pertinent Results:
___ 07:00PM BLOOD WBC-10.9* RBC-4.77 Hgb-13.9 Hct-41.0 
MCV-86 MCH-29.1 MCHC-33.9 RDW-14.6 RDWSD-45.6 Plt ___
___ 07:00PM BLOOD Neuts-59.7 ___ Monos-6.0 Eos-2.5 
Baso-0.5 Im ___ AbsNeut-6.53* AbsLymp-3.37 AbsMono-0.65 
AbsEos-0.27 AbsBaso-0.05
___ 07:00PM BLOOD Glucose-93 UreaN-15 Creat-0.9 Na-143 
K-4.0 Cl-103 HCO3-22 AnGap-18*
___ 07:00PM BLOOD ALT-21 AST-14 LD(LDH)-148 AlkPhos-49 
TotBili-0.2
___ 02:23PM BLOOD %HbA1c-6.2* eAG-131*
___ 09:31AM BLOOD Triglyc-267* HDL-42 CHOL/HD-3.8 
LDLcalc-64
___ 07:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

MRI brain ___
"Normal brain MRI without contrast."

MRI cervical spine ___
"1. Multilevel cervical degenerative disease and minimal 
ossification of the 
posterior longitudinal ligament. 
2. The ventral spinal cord is mildly remodeled at C5-C6 with 
mild to moderate 
spinal canal narrowing.  No evidence for cord signal 
abnormalities allowing 
for mild motion artifact. 
3. Multilevel neural foraminal narrowing, as detailed above. "

CTA head/neck ___
"Normal head and neck CTA."
 
Brief Hospital Course:
___ year-old right-handed man with history of OSA on
CPAP, diabetes mellitus type 2, HTN, HLD who presented with 1 
day
history of generalized malaise and a 6 hour history of 
dizziness,
nausea/vomiting and left facial parasthesias. Clinical history
notable for a number of factors that point toward peripheral
vestibulopathy, such as left sided hearing loss and tinnitus,
Examination suggestive of peripheral neuropathy and 
vestibulopathy (decreased proprioception small toes, veers left 
on Unterberger). MRI was performed and was negative for stroke. 
MRI c-spine was performed because of decreased sensation on 
neck, but did not show any lesions to explain that. The next 
day, his decreased sensation had already resolved, along with 
his other symptoms as well. Overall, suggestive of viral illness 
aggravating pre-existing vestibulopathy. No clear cause to 
facial sensory symptoms. Did not feel that overall these 
symptoms represented a TIA. Baby aspirin (81 mg daily) was 
started. Does not need to follow up in neurology clinic.

Transitional issues:
None
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 
2. Doxycycline Hyclate Dose is Unknown  PO Q12H 
3. Atorvastatin 10 mg PO QPM 
4. amLODIPine 2.5 mg PO DAILY 
5. TraZODone 50 mg PO QHS:PRN insomnia 
6. MetFORMIN XR (Glucophage XR) 1000 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  amLODIPine 2.5 mg PO DAILY  
3.  Atorvastatin 10 mg PO QPM  
4.  Doxycycline Hyclate 100 mg PO Q12H 
take however this was prescribed in the past  
5.  MetFORMIN XR (Glucophage XR) 1000 mg PO DAILY  
6.  Omeprazole 20 mg PO DAILY  
7.  TraZODone 50 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified disturbances of skin sensation
dizziness

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Neuro exam: proprioception impaired in small toe in feet 
bilaterally. Otherwise nonfocal.

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized due to symptoms of dizziness and numbness 
over your face. We did a MRI of your brain, which as normal. 
There were no signs of stroke. Your numbness did not appear to 
be caused by any neck issues either, as we did a MRI of your 
neck. Your dizziness may have been caused by a combination of 
things, low blood sugar, a stomach viral illness, some damage to 
your nerves in your feet caused by diabetes. The brain is the 
part of your body that controls and directs all the other parts 
of your body, so damage to the brain from being deprived of its 
blood supply can result in a variety of symptoms.
We did not change any of your medications
Please take your other medications as prescribed.
Please followup with your primary care physician.
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911).
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___